US03985730
Approximately 5 parts of 10-[3-(dimethylamino)propyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile is dissolved in minimal 2-propanol and the solution made acid with 20% hydrogen chloride in 2-propanol. A white solid precipitates. Sufficient anhydrous ether is added to insure completion of precipitation, whereupon the solids are filtered out, washed with anhydrous ether, dried in air, and recrystallized from a mixture of absolute ethanol and anhydrous ether to give 10-[3-(dimethylamino)propyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile hydrochloride which, dried in vacuo, melts at 220.5°-222°.

reactant | 10-[3-(dimethylamino)propyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile | CN(CCCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)C#N)C | C22H27N3
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 10-[3-(dimethylamino)propyl]-5-ethyl-10,11-dihydro-5H-dibenz[b,f]azepine-10-carbonitrile hydrochloride | Cl.CN(CCCC1(CC2=C(N(C3=C1C=CC=C3)CC)C=CC=C2)C#N)C | InChI=1S/C22H27N3.ClH/c1-4-25-20-12-7-5-10-18(20)16-22(17-23,14-9-15-24(2)3)19-11-6-8-13-21(19)25;/h5-8,10-13H,4,9,14-16H2,1-3H3;1H
